US07179804B2
[1-(3,5-Bis-trifluoromethyl-benzyl)-5-imidazol-1-yl-1H-[1,2,3]triazol-4-yl]-[4-(2-chloro-phenyl)-2-cyclopropyl-oxazol-5-yl]-methanone
Add imidazole (0.37 g, 5.44 mmol) to a solution of [1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazol-4-yl]-[4-(2-chloro-phenyl)-2-cyclopropyl-oxazol-5-yl]-methanone (0.16 g, 0.28 mmol) in DMSO (1.0 mL) and heat to 80° C. for 18 h. Dilute reaction mixture with EtOAc and wash with water and brine, then dry, filter, and concentrate. Purify by flash chromatography using a linear gradient of 30% to 70% EtOAc in hexane to give the title compound (0.15 g, 76%). MS (ES) 607.1 (M+H). 1H NMR (400 MHz, CHCl3) δ 7.88 (s, 1H), 7.61 (s, 1H) 7.51 (m, 3H), 7.21–7.33 (m, 4H), 6.92 (s, 1H), 5.43 (s, 2H), 2.20 (m, 1H), 1.17–1.31 (m, 4H).

reactant | imidazole | 5.44 mmol, 0.37 g | N1C=NC=C1 | C3H4N2
reactant | [1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazol-4-yl]-[4-(2-chloro-phenyl)-2-cyclopropyl-oxazol-5-yl]-methanone | 0.28 mmol, 0.16 g | FC(C=1C=C(CN2N=NC(=C2Cl)C(=O)C2=C(N=C(O2)C2CC2)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C24H14Cl2F6N4O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | [1-(3,5-Bis-trifluoromethyl-benzyl)-5-imidazol-1-yl-1H-[1,2,3]triazol-4-yl]-[4-(2-chloro-phenyl)-2-cyclopropyl-oxazol-5-yl]-methanone | 0.15 g, 76% | FC(C=1C=C(CN2N=NC(=C2N2C=NC=C2)C(=O)C2=C(N=C(O2)C2CC2)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H17ClF6N6O2
